US05914338
B. 2-Amino-2-(4-azatricyclo[2.2.1.02,6 ]hept-1-yl)acetonitrile
To an icecooled solution of 1-formyl-4-azatricyclo[2.2.1.02,6 ]heptane (3.56 g, 29 mmol) in water (5 ml) was added a solution of potassium cyanide (2.08 g, 31.9 mmol) in water (5 ml) over 30 min. After an additional 1 h, cooling was removed and the reaction stirred at room temperature for 16 h. The cyanohydrin product was then added 25% aqueous ammonia (4.0 ml, 52 mmol) and ammonium chloride (7.76 g, 145 mmol). The reaction mixture was stirred at room temperature for 18 h and then extracted with isopropanole/dichloromethane (1:10) (10×75 ml). The organic phases were dried and evaporated to give the title compound as an oil (2.5 g, 58%).

reactant | 1-formyl-4-azatricyclo[2.2.1.02,6 ]heptane | 29 mmol, 3.56 g | C(=O)C12C3CN(CC31)C2 | C7H9NO
reactant | potassium cyanide | 31.9 mmol, 2.08 g | [C-]#N.[K+]
reactant | ammonia | 52 mmol, 4.0 ml | N | H3N
reactant | ammonium chloride | 145 mmol, 7.76 g | [Cl-].[NH4+]
solvent | water | 5 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | 2-Amino-2-(4-azatricyclo[2.2.1.02,6 ]hept-1-yl)acetonitrile | 2.5 g, 58% | NC(C#N)C12C3CN(CC31)C2 | C8H11N3
